US20010018452A1
P-3) (4,5-dimethyl-2-o-tolyloxymethyl-phenyl)-methoxyimino-acetic acid methylester
A solution of 1.3 g of (4,5-dimethyl-2-o-tolyloxymethyl-cyclohexa-1,4-dienyl)-methoxyimino-acetic acid methylester in 15 ml of toluene is mixed with 1.1 g of DDQ. After stirring for 5 hours at room temperature, the reaction mixture is purified using toluene/hexane/diisopropylether (10:10:3) on silica gel. After stirring in hexane, the title compound is obtained in the form of white crystals having the melting point 82-84° C.

reactant | (4,5-dimethyl-2-o-tolyloxymethyl-cyclohexa-1,4-dienyl)-methoxyimino-acetic acid methylester | 1.3 g | COC(C(=NOC)C1=C(CC(=C(C1)C)C)COC1=C(C=CC=C1)C)=O | C20H25NO4
reactant | DDQ | 1.1 g | C(#N)C1=C(C(=O)C(=C(C1=O)Cl)Cl)C#N | C8Cl2N2O2
solvent | toluene | 15 ml | C1(=CC=CC=C1)C | C7H8
product | (4,5-dimethyl-2-o-tolyloxymethyl-phenyl)-methoxyimino-acetic acid methylester | COC(C(=NOC)C1=C(C=C(C(=C1)C)C)COC1=C(C=CC=C1)C)=O | C20H23NO4
